US04925879
A solution of 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-dimethylaminoacetonitrile (11.3 g prepared as described in Example A(c)) in tetrahydrofuran (20 ml) was added over a period of ten minutes to a solution of lithium diisopropylamide at -50° C. [prepared by the addition of a 2.7M solution of butyllithium in hexane (24.7 ml) to a solution of diisopropylamine (10.25 ml) in dry tetrahydrofuran (30 ml) at 10°-15° C. under argon] and the mixture was allowed to warm to 3° C. and maintained at 3° C. for 30 minutes. The mixture was cooled to -70° C. and cyclohexanecarbaldehyde (11.5 g) was added with stirring over a period of 20 minutes. Stirring was continued at this temperature for a further 40 minutes and then saturated aqueous ammonium chloride solution (100 ml) was added slowly at -70° C. The mixture was allowed to warm to 20°-25° C. and the aqueous layer was separated and extracted with ether. The ether extracts were combined with the organic layer of the reaction mixture, dried and evaporated to give an oil which was heated (eliminating hydrogen cyanide) at 90°-95° C. for 3 hours and then cooled and dissolved in methanol (100 ml). Oxalic acid (10 g) was added and the mixture heated at 90°-95° C. for one hour. The mixture was cooled, basified and extracted with ether. The ether extract was dried and evaporated to give an oil which was purified by flash chromatography using a 95:5 mixture of petroleum ether and ether as eluant. The resulting oil solidified on standing and was recrystallised from petroleum ether (b.p. 60°-80° C.) to give 1-cyclohexyl-2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-dimethylaminoethanone (m.p. 79°-80° C.).

reactant | 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-dimethylaminoacetonitrile | 11.3 g | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C#N)N(C)C | C14H16Cl2N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 10.25 ml | C(C)(C)NC(C)C | C6H15N
reactant | cyclohexanecarbaldehyde | 11.5 g | C1(CCCCC1)C=O | C7H12O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | hydrogen cyanide | C#N | CHN
reactant | Oxalic acid | 10 g | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 24.7 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
product | 1-cyclohexyl-2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-dimethylaminoethanone | C1(CCCCC1)C(C(N(C)C)C1(CCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C20H27Cl2NO
